US04213991
1-[2-(2-chlorophenylthio)-4-(4-methoxyphenyl)-n-butyl]imidazole nitrate (2.0 g) in 100 ml of dichloromethane was shaken with excess dilute potassium carbonate solution until the salt was completely dissolved. The organic layer was then separated, washed twice with water, dried over magnesium sulfate and evaporated to yield 1-[2-(2-chlorophenylthio)-4-(4-methoxyphenyl)-n-butyl]imidazole as an oil.

reactant | 1-[2-(2-chlorophenylthio)-4-(4-methoxyphenyl)-n-butyl]imidazole nitrate | 2.0 g | [N+](=O)(O)[O-].ClC1=C(C=CC=C1)SC(CN1C=NC=C1)CCC1=CC=C(C=C1)OC
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-[2-(2-chlorophenylthio)-4-(4-methoxyphenyl)-n-butyl]imidazole | ClC1=C(C=CC=C1)SC(CN1C=NC=C1)CCC1=CC=C(C=C1)OC | C20H21ClN2OS
